US05932595
A mixture of 3-benzyl-3-(4-bromophenylsulfonyl)-propionic acid (250 mg), p-methoxystyrene (0.1 ml), diisopropylethylemine (0.25 ml), palladium acetate (5 mg) and tri(o-methylphenyl)phosphine (16 mg) was stirred overnight at 80° C. The reaction mixture was dissolved in methylene chloride and washed with aqueous citric acid. Solvent was removed from the methylene chloride solution, and the residue chromatographed on silica gel (preparative TLC, eluting with 10% methanol/methylene chloride), to afford 3-benzyl-3-(4-styrylphenylsulfonyl)-propionic acid (21 mg).

reactant | 3-benzyl-3-(4-bromophenylsulfonyl)-propionic acid | 250 mg | C(C1=CC=CC=C1)C(CC(=O)O)S(=O)(=O)C1=CC=C(C=C1)Br | C16H15BrO4S
reactant | p-methoxystyrene | 0.1 ml | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | tri(o-methylphenyl)phosphine | 16 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-benzyl-3-(4-styrylphenylsulfonyl)-propionic acid | 21 mg | C(C1=CC=CC=C1)C(CC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C24H22O4S
